US08106087B2
Synthesis of 1′-[(2-methylcyclopropyl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
Following the procedure described in EXAMPLE 10.21, and making non-critical variations using spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)one to replace 5,5-dimethyl-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one, and 1-(bromomethyl)-2-methylcyclopropane to replace 2-(bromonmethyl)-5-(trifluoromethyl)furan, the title compound was obtained (37%) as a white solid: MS (ES+) m/z 350.3 (M+1).

reactant | spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)one | N1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C16H11NO4
reactant | 5,5-dimethyl-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one | CC1(C=2C(OC1)=CC=1OCC3(C(NC4=CC=CC=C34)=O)C1C2)C | C19H17NO3
reactant | 1-(bromomethyl)-2-methylcyclopropane | BrCC1C(C1)C | C5H9Br
product | 1′-[(2-methylcyclopropyl)methyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | CC1C(C1)CN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C21H19NO4
